US08466282B2
1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-4,5,6,7-tetrahydro-1H-indole-2-carboxamide
tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-4,5,6,7-tetrahydro-1H-indol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (100 mg) was dissolved in dichloromethane (0.5 ml), TFA (0.5 ml) was added, to and the mixture was stirred at room temperature for 15 min. The solvent was evaporated under reduced pressure, and the residue was neutralized with saturated aqueous sodium hydrogen carbonate. The mixture was extracted with ethyl acetate (10 ml×2), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was dried under reduced pressure to give the object product (45 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-4,5,6,7-tetrahydro-1H-indol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 100 mg | COCCCCN1C(=CC=2CCCCC12)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H54N4O6
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-4,5,6,7-tetrahydro-1H-indole-2-carboxamide | 45 mg | COCCCCN1C(=CC=2CCCCC12)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C | C28H46N4O4
